### PR TITLE
Add KAT solver

### PR DESCRIPTION
**Pull request by GoPavel**

### CODE REVIEW

File: HahnKat.v [hunk 1]
```diff
@@ -0,0 +1,336 @@
+(******************************************************************************)
+(** * Define KAT instance and canonical stractures *)
```
Comment (eupp) [inline HahnKat.v]: **structures**

File: HahnKat.v [hunk 2]
```diff
@@ -0,0 +1,336 @@
...
+Require Import RelationAlgebra.kat.
+
+Require Import HahnSets HahnRelationsBasicDef HahnBase.
+
+(* Fix unnecessary simplification, that RelationAlgebra brought *)
+Require Export Setoid Morphisms.
+Arguments Proper {_} _ _ : simpl never.
+Arguments respectful {_ _} _ _ _ _: simpl never.
+
+Require Import Coq.Logic.FunctionalExtensionality.
```
Comment (eupp) [inline HahnKat.v]: Could you please remind me, why functional extensionality is needed here?
I thought only excluded middle is required, because `hahn` uses `Prop`s heavily.

File: HahnKat.v [hunk 3]
```diff
@@ -0,0 +1,336 @@
...
+
+Set Implicit Arguments.
+
+Instance Prop_lattice_laws: lattice.laws (BL+STR+CNV+DIV) Prop_lattice_ops.
+Proof.
+  constructor; (try apply Build_PreOrder); simpl;
+    repeat intro; try (discriminate || tauto).
+Qed.
+
+Definition refl_top {A: Type}: relation A := fun x y => x = y.
```
Comment (eupp) [inline HahnKat.v:19]: Why not just use `eq`?

File: HahnKat.v [hunk 4]
```diff
@@ -0,0 +1,336 @@
...
+     dot n m p := @seq A;
+     one n := refl_top;
+     itr n := @clos_trans A;
+     str n := @clos_refl_trans A;
+     cnv n m := @transp A;
+     ldv n m p := assert_false (fun _ a => a);
+     rdv n m p := assert_false (fun _ a => a);
+  |}.
+
+Local Lemma clos_refl_transE {A: Type} {r: relation A} a b :  r＊ a b <-> a = b \/ r⁺ a b.
```
Comment (eupp) [inline HahnKat.v:60]: Did you copypasted this lemma from `HahnRelationsBasic.v`?

File: HahnKat.v [hunk 5]
```diff
@@ -0,0 +1,336 @@
...
+      destruct H1; (exists z0; split; try assumption); eapply rt_trans; eauto using rt_step.
+    + rewrite clos_refl_transE in H1. destruct H1.
+      * rewrite <- H1. constructor; apply H0.
+      * eauto using clos_trans.
+Qed.
+
+(* TODO: Try to reuse hahn's sets *)
+Definition dset' {A: Type}: lattice.ops := pw_ops Prop_lattice_ops A.
+
+Definition inj' {A: Type} (cond: (@dset' A)): relation A
```
Comment (eupp) [inline HahnKat.v]: `hahn` already has this, it is called `eqv_rel`.

File: HahnKat.v [hunk 6]
```diff
@@ -0,0 +1,336 @@
...
+    + exists y; split; [> apply H0 | apply rt_refl].
+    + destruct IHclos_trans_n1 as [z0 [H2 H3]].
+      destruct H1; (exists z0; split; try assumption); eapply rt_trans; eauto using rt_step.
+    + rewrite clos_refl_transE in H1. destruct H1.
+      * rewrite <- H1. constructor; apply H0.
+      * eauto using clos_trans.
+Qed.
+
+(* TODO: Try to reuse hahn's sets *)
+Definition dset' {A: Type}: lattice.ops := pw_ops Prop_lattice_ops A.
```
Comment (eupp) [inline HahnKat.v]: `dset'` isn't a good name.

File: HahnKat.v [hunk 7]
```diff
@@ -0,0 +1,336 @@
...
+Hint Unfold dset' inj' : unfolderDb.
+
+Canonical Structure rel_kat_ops {A: Type}: kat.ops :=
+  {| kat.kar := @rel_monoid_ops A;
+     kat.tst n := @dset' A;
+     kat.inj n := @inj' A
+  |}.
+
+(* utility for get first-order proposition  *)
+Ltac unfold_all := repeat (autounfold with unfolderDb; simpl).
```
Comment (eupp) [inline HahnKat.v]: Is the `unfolderDb` same database that `hahn` uses throughout all files? Or did you declare your own here?

File: HahnKat.v [hunk 8]
```diff
@@ -0,0 +1,336 @@
...
+  constructor; simpl; intros.
+  - apply lower_laws.
+  - apply (pw_laws (H:=lower_lattice_laws)).
+  - constructor; try discriminate; unfold_all; firstorder.
+  - unfold_all; firstorder.
+  - unfold_all.
+    firstorder; rewrite H0 in *; rewrite <- H in *; trivial.
+Qed.
+
+(* Notation for debug *)
```
Comment (eupp) [inline HahnKat.v:128]: Do we need these notations?

File: HahnKat.v [hunk 9]
```diff
@@ -0,0 +1,336 @@
...
+(** Lemmas for lifting basic definitions to KAT *)
+(******************************************************************************)
+Section Lifting.
+
+Variable A : Type.
+Variables r r1 r2: relation A.
+Variable d d1 d2: A -> Prop.
+Local Notation " [ p ] " := (inj (n:=tt) p): ra_terms.
+
+Lemma same_rel_iff_weq: same_relation r1 r2 <-> r1 ≡ r2.
```
Comment (eupp) [inline HahnKat.v:151]: Are these still needed?
I thought after you declared them in `rel_lattice_ops` Coq should pick them automatically?

File: HahnKat.v [hunk 10]
```diff
@@ -0,0 +1,336 @@
...
+Ltac lift_to_kat_all := repeat autorewrite with redefDb in *.
+
+(******************************************************************************)
+(** Redefine hkat/kat tactic *)
+(******************************************************************************)
+
+Import RelationAlgebra.kat_reification.
+
+(* Support new hypothesis as combination of old *)
+Lemma qapb_to_hoare `{L: laws} {n m} (a: tst n) (b: tst m) (p q: X n m):
```
Comment (eupp) [inline HahnKat.v:253]: What is that?

File: HahnKat.v [hunk 11]
```diff
@@ -0,0 +1,336 @@
...
+Proof. intro H. split; rewrite H; kat. Qed.
+
+Ltac hahn_kat :=
+  lift_to_kat_all;
+  intros; rewrite ?leq_iff_cup;
+    (apply (catch_kat_weq tt tt) || fail "could not find a KAT structure");
+    pre_dec true.
+
+(* NOTE: matching reordered for speed up a bit *)
+Ltac aggregate_hoare_hypotheses' :=
```
Comment (eupp) [inline HahnKat.v]: name with dash `'` again :(

File: HahnKat.v [hunk 12]
```diff
@@ -0,0 +1,336 @@
...
+  apply functional_extensionality; intro y;
+  apply prop_ext.
+
+Lemma restr_rel_iff_kat: restr_rel d r = ([d]⋅r⋅[d]).
+Proof. rel_ext; unfold_all; firstorder; congruence. Qed.
+
+Lemma lift_clos_refl: r^? = (refl_top ⊔ r).
+Proof. unfold_all; reflexivity. Qed.
+
+Lemma set_empty_iff_kat: @set_empty A = bot.
```
Comment (eupp) [inline HahnKat.v]: Same question here. Do we need these lemmas, or Coq can infer the needed definitions itself via an instance of `rel_lattice_ops`? By the way, where is an instance of `rel_lattice_ops` for `A -> Prop`. Is it somewhere in `kat`? Is it infered automaticaly from `Prop` lattice and pointwise construction?

File: HahnMaxElt.v [hunk 13]
```diff
@@ -6,15 +6,40 @@ Require Import HahnBase HahnList HahnSets HahnRelationsBasic.
...
 
+Set Implicit Arguments.
 
 Definition max_elt A (r: relation A) (a : A) :=
   forall b (REL: r a b), False.
 
 Definition wmax_elt A (r: relation A) (a : A) :=
   forall b (REL: r a b), a = b.
 
+Local Lemma sym A: forall (x y: A), x = y <-> y = x.
```
Comment (eupp) [inline HahnMaxElt.v]: It should be somewhere in the standard library.

File: README.md [hunk 14]
```diff
@@ -1,3 +1,20 @@
+# Experiment with KAT
+
+Try to simplify proofs using [relation-algebra](http://perso.ens-lyon.fr/damien.pous/ra/).
+
+New modules
+- [HahnKat.v](https://github.com/GoPavel/hahn/blob/experiments-with-kat/HahnKat.v) contains:
+  - instances of Canonical Structures and Typeclasses
+  - redefinition original tactics `kat`/`hkat`
```
Comment (eupp) [inline README.md]: redefinition of

File: README.md [hunk 15]
```diff
@@ -1,3 +1,20 @@
...
+  - lemmas for lifting old definitions to KAT
```
Comment (eupp) [inline README.md]: old --> hahn's

File: README.md [hunk 16]
```diff
@@ -1,3 +1,20 @@
...
+
+Introduce tactics:
+- `kat'` - solve KAT
```
Comment (eupp) [inline README.md]: `hahn_kat`/`hahn_hkat`

**Review by eupp — COMMENTED** [review]
It is very nice, thank you!

However, I have some questions, mostly about `HahnKat.v`. 
Could you please answer them.

File: README.md (hunk 14 above)
Comment (GoPavel) [reply README.md]: fixed

File: README.md (hunk 15 above)
Comment (GoPavel) [reply README.md]: fixed

File: README.md (hunk 16 above)
Comment (GoPavel) [reply README.md]: fixed

File: HahnKat.v (hunk 2 above)
Comment (GoPavel) [reply HahnKat.v:18]: https://github.com/GoPavel/hahn/blob/8acb85fc58968236dceb086495d454fdc409494d/HahnKat.v#L182-L188

Comment (GoPavel) [reply HahnKat.v]: It's redundant import because of HahnBase export that.

We need classic logic (tactic `classic`) when we reasoning about the negation of tests. In most cases, we need to eliminate double negation one of that often appears from ` ≦ bot` and another one - from negation test.

Examples: 
https://github.com/GoPavel/hahn/blob/8acb85fc58968236dceb086495d454fdc409494d/HahnKat.v#L226
https://github.com/GoPavel/hahn/blob/8acb85fc58968236dceb086495d454fdc409494d/HahnMaxElt.v#L30

Another interesting question about prop extensionality:
https://github.com/GoPavel/hahn/blob/8acb85fc58968236dceb086495d454fdc409494d/HahnKat.v#L182-L189

I guess It's necessary for rewriting relation definition. I read [wiki](https://github.com/coq/coq/wiki/The-Logic-of-Coq), but I am not sure about saving consistency.

File: HahnKat.v (hunk 3 above)
Comment (GoPavel) [reply HahnKat.v:19]: Like `fun x y => eq x y` ? I guess it doesn't matter.

File: HahnKat.v (hunk 4 above)
Comment (GoPavel) [reply HahnKat.v:60]: Yes. Due to appearing cycle dependency, I cannot import that.

File: HahnKat.v (hunk 7 above)
Comment (GoPavel) [reply HahnKat.v]: yep, it's the same.
As I understand Coq creates database ad-hoc after first `Hint Unfold`

File: HahnKat.v (hunk 8 above)
Comment (GoPavel) [reply HahnKat.v:128]: We can't use notations from relation-algebra because of notations collision.
Generally, you not interesting in that because after lifting to KAT manually reasoning become inconvenient.

But for looking at resulting KAT-equation as a workaround I use that one notation for debugging. It works because relation-algebra notations aren't reexported.

File: HahnMaxElt.v (hunk 13 above)
Comment (GoPavel) [reply HahnMaxElt.v]: It's redundant :)

File: HahnKat.v (hunk 1 above)
Comment (GoPavel) [reply HahnKat.v]: fixed

File: HahnKat.v (hunk 5 above)
Comment (GoPavel) [reply HahnKat.v]: You are right. It's fixed.
Also, I rewrote `dset` to use hahn's set definition.

File: HahnKat.v (hunk 6 above)
Comment (GoPavel) [reply HahnKat.v]: Maybe, fixed.

File: HahnKat.v (hunk 7 above)
Comment (GoPavel) [reply HahnKat.v]: Github says that it's outdated, but I just moved `unfold_all` definition up.

File: HahnKat.v (hunk 9 above)
Comment (GoPavel) [reply HahnKat.v:151]: Yes, it's needed for goal matching I think.

File: HahnKat.v (hunk 10 above)
Comment (GoPavel) [reply HahnKat.v:253]: That hypothesis isn't supported by `hkat`. Maybe I should make PR for `relation-algebra`.

File: HahnKat.v (hunk 11 above)
Comment (GoPavel) [reply HahnKat.v]: fixed
